US06943259B2
Preparation of 14-deoxy-14α-fluoro triptolide
To a solution of PG490 (triptolide, 17.3 mg, 0.048 mmol) in dichloromethane (1.0 ml) at 0° C. was added (diethylamino)sulfur trifluoride (DAST, 100 μl, 0.763 mmol) under N2. The reaction mixture was stirred at 0° C. for 2 hrs, and saturated NaHCO3 solution (0.8 ml) was then added. The reaction mixture was extracted with 3×2 ml of dichloromethane. The combined organic layer was dried over anhydrous NaSO4 and concentrated under vacuum. The desired product (PG763) was obtained in quantitative yield.

reactant | PG490 | 0.048 mmol, 17.3 mg | CC(C)[C@@]12[C@@H](O1)[C@H]3[C@@]4(O3)[C@]5(CCC6=C([C@@H]5C[C@H]7[C@]4([C@@H]2O)O7)COC6=O)C | C20H24O6
reactant | (diethylamino)sulfur trifluoride | 0.763 mmol, 100 μl | C(C)N(CC)S(F)(F)F | C4H10F3NS
reactant | NaHCO3 | 0.8 ml | C(=O)(O)[O-].[Na+]
solvent | dichloromethane | 1.0 ml | ClCCl | CH2Cl2
product | 14-deoxy-14α-fluoro triptolide | quantitative yield | CC(C)[C@@]12[C@@H](O1)[C@H]3[C@@]4(O3)[C@]5(CCC6=C([C@@H]5C[C@H]7[C@]4([C@H]2F)O7)COC6=O)C | C20H23FO5
